US07939533B2
a) Thioacetic acid 5′-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl Ester
A solution of 0.22 g (0.84 mmol) triphenylphosphine and 0.15 g (0.84 mmol) diethyl azodicarboxylate in 3.33 ml THF was stirred for 15 min at 0° C. This solution was added to a solution of 0.25 g (0.42 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4′-(4-fluoro-2-methyl-phenyl)-4-hydroxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide and 64 mg (0.84 mmol) thioacetic acid in 10 ml THF at 0° C. Conversion was monitored by thin layer chromatography. After complete consumption of the starting material a 2 N aqueous solution of sodium carbonate was added. The mixture was extracted with three portions of tert-butyl methyl ether. The combined organic extracts were dried over sodium sulphate and concentrated. Flash column chromatography gave 0.16 g (59%) of the title compound as a white solid.

reactant | triphenylphosphine | 0.84 mmol, 0.22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.84 mmol, 0.15 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4′-(4-fluoro-2-methyl-phenyl)-4-hydroxy-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide | 0.42 mmol, 0.25 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=CC(=NC1)N1CCC(CC1)O)C1=C(C=C(C=C1)F)C)(C)C)(F)F | C30H30F7N3O2
reactant | thioacetic acid | 0.84 mmol, 64 mg | C(C)(=S)O | C2H4OS
solvent | THF | 3.33 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Thioacetic acid 5′-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4′-(4-fluoro-2-methyl-phenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl Ester | 0.16 g, 59% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=CC(=NC1)N1CCC(CC1)OC(C)=S)C1=C(C=C(C=C1)F)C)C)(C)C)(F)F | C32H32F7N3O2S
